US07282588B2
Preparation of N-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N-methyl-N′-phenylurea
A solution of {4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}methylamine (0.16 mmol) in tetrahydrofuran (1 mL) was treated with triethylamine (0.17 mmol), and phenyl isocyanate (0.17 mmol). After stirring 18 h at room temperature the reaction was poured into water (1 mL), and extracted with (3×1 mL) ethyl acetate. The combined organic layers were washed with water (2×1 mL), brine (1×1 mL) dried over sodium sulfate and concentrated in vacuo. Purification of the residue by Gilson reverse phase HPLC provided the title product as a white powder (42%). ESMS [M+H]+: 437.2

reactant | {4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}methylamine | 0.16 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(C=C2)CN | C19H19N5
reactant | triethylamine | 0.17 mmol | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.17 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | water | 1 mL | O | H2O
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N-methyl-N′-phenylurea | 42% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(C=C2)N(C(=O)NC2=CC=CC=C2)C | C26H24N6O
